US08703758B2
I-A) (2S)-1-({1-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)propan-2-amine monohydrochloride
To a solution of tert-butyl [(1S)-2-({1-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]carbamate (41.4 g) in ethyl acetate (200 mL) was added 4M hydrogen chloride/ethyl acetate (200 mL) at room temperature, and the mixture was stirred at room temperature for 4 hr and concentrated. The obtained residue was recrystallized from hexane/ethanol to give the title compound (17.5 g) as white crystals.

reactant | tert-butyl [(1S)-2-({1-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]carbamate | 41.4 g | C1(CC1)COC1=CC2=C(N=C(O2)N2CCC(CC2)OC[C@H](C)NC(OC(C)(C)C)=O)C=C1 | C24H35N3O5
reactant | hydrogen chloride ethyl acetate | 4M, 200 mL | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | (2S)-1-({1-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)propan-2-amine monohydrochloride | 17.5 g | Cl.C1(CC1)COC1=CC2=C(N=C(O2)N2CCC(CC2)OC[C@H](C)N)C=C1 | InChI=1S/C19H27N3O3.ClH/c1-13(20)11-23-15-6-8-22(9-7-15)19-21-17-5-4-16(10-18(17)25-19)24-12-14-2-3-14;/h4-5,10,13-15H,2-3,6-9,11-12,20H2,1H3;1H/t13-;/m0./s1
